US07858621B2
To a solution of 2-methyl-6-trifluoromethyl-3-pyridinecarboxaldehyde (440 mg, 2.32 mmol) in toluene (10 mL) was added methyl(triphenylphosphoranylidene)acetate (855 mg, 2.56 mmol). The mixture was heated at 110° C. for overnight, cooled to room temperature, and diluted with EtOAc and water. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The crude residue was purified by column chromatography (EtOAc/hexanes=1/4) to 3-(2-methyl-6-trifluoromethylpyridin-3-yl)acrylic acid methyl ester (376 mg, 65.9%) as a mixture of cis- and trans-isomers (cis-/trans-=1/10). To a solution of the ester (376 mg, 1.53 mmol) in THF (5 mL) was added 1 N LiOH (2.5 mL). The mixture was stirred at room temperature for 1 hour and concentrated under reduced pressure. The residue was diluted with EtOAc and water. The aqueous layer was then separated, acidified to pH 4 with 3 N HCl, and extracted with EtOAc. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The crude product was purified by recrystallization from EtOAc/hexanes to give 3-(2-methyl-6-trifluoromethylpyridin-3-yl)acrylic acid (trans-isomer, 200 mg, 56.4%) as solid.

reactant | 2-methyl-6-trifluoromethyl-3-pyridinecarboxaldehyde | 2.32 mmol, 440 mg | CC1=NC(=CC=C1C=O)C(F)(F)F | C8H6F3NO
reactant | methyl(triphenylphosphoranylidene)acetate | 2.56 mmol, 855 mg | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
reactant | LiOH | 1 N, 2.5 mL | [Li+].[OH-]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(2-methyl-6-trifluoromethylpyridin-3-yl)acrylic acid | 200 mg, 56.4% | CC1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C10H8F3NO2
